US04038305
7-(2-Dimethoxymethyl-5-oxo-1-cyclopenten-1-yl)-heptanoic acid methyl ester.
To a solution of sodium methoxide in methanol, prepared from 0.52 g of sodium and 90 ml of methanol, were added 5.68 g of a mixture containing about 5.28 g of 13,13-dimethoxy-9,12-dioxotridecanoic acid methyl ester.

reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium | 0.52 g | [Na] | Na
reactant | 13,13-dimethoxy-9,12-dioxotridecanoic acid methyl ester | about 5.28 g | COC(CCCCCCCC(CCC(C(OC)OC)=O)=O)=O | C16H28O6
solvent | methanol | CO | CH4O
solvent | methanol | 90 ml | CO | CH4O
product | 7-(2-Dimethoxymethyl-5-oxo-1-cyclopenten-1-yl)-heptanoic acid methyl ester | COC(CCCCCCC1=C(CCC1=O)C(OC)OC)=O | C16H26O5
